US06589978B2
(2RS,5RS)-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyramide
A mixture of (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin yl]-butyronitrile (2.0 g, 5.17 mmol) and conc. sulfuric acid (20 ml) was stirred at RT for 17 h, poured into 150 ml ice/water and extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with water (100 ml), dried (MgSO4) and evaporated to give the title compound as a white foam, MS: m/e=404 (M+).

reactant | (2RS,5RS)-4-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin yl]-butyronitrile | 5.17 mmol, 2.0 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC#N | C21H23FN2O2S
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | (2RS,5RS)-4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyramide | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=O)N | C21H25FN2O3S
